US05234936
The preparation of 5,6,7,8-tetrahydro-4-[[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]amino]-2-(trifluoromethyl)-5-quinazolinol dihydrate
To 25 mL of DMSO was added 4.5 g of 5-bromo-4-chloro-5,6,7,8-tetrahydro-2-trifluoromethylquinazoline and 4.7 g of anhydrous sodium acetate. The reaction mixture was warmed for 2 hours at which time 4.1 g of N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]amine hydrochloride was added and the reaction was heated to 40° C. overnight. To the crude reaction mixture was added 24 mL of 2.5N aqueous sodium hydroxide. After 1 hour the reaction was diluted with 500 mL of water and was acidified with hydrochloric acid. The acidified reaction mixture was extracted with ethyl acetate and the organic fractions were washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The resulting residue was purified on silica to yield 5.3 g of the title product: 1H NMR (DMSO-d6, 400 MHz) δ 7.80 (m, 1H), 7.60 (m, 2H), 7.48 (m, 2H), 7.28 (m, 2H), 7.03 (m, 2H), 5.33 (bs, 1H), 4.63 (m, 3H), 2.60 (m, 3H), 1.80 (m, 3H); positive DCI MS m/e 468(M+H); 506(M+K). Anal. calc'd for C23H20F3N7O.2H2O: C, 54.87; H, 4.80; N, 19.48. Found: C, 54.52; H, 4.44; N, 18.14.

reactant | 5-bromo-4-chloro-5,6,7,8-tetrahydro-2-trifluoromethylquinazoline | 4.5 g | BrC1C=2C(=NC(=NC2CCC1)C(F)(F)F)Cl | C9H7BrClF3N2
reactant | sodium acetate | 4.7 g | C(C)(=O)[O-].[Na+]
reactant | N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]amine hydrochloride | 4.1 g | Cl.N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN
reactant | sodium hydroxide | 2.5N, 24 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 500 mL | O | H2O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 5,6,7,8-tetrahydro-4-[[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]amino]-2-(trifluoromethyl)-5-quinazolinol dihydrate | 5.3 g | O.O.N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=NC(=NC=2CCCC(C12)O)C(F)(F)F | InChI=1S/C23H20F3N7O.2H2O/c24-23(25,26)22-28-17-6-3-7-18(34)19(17)21(29-22)27-12-13-8-10-14(11-9-13)15-4-1-2-5-16(15)20-30-32-33-31-20;;/h1-2,4-5,8-11,18,34H,3,6-7,12H2,(H,27,28,29)(H,30,31,32,33);2*1H2
